US09233985B2
preparation of (3R,4S)-3-amino-1-(2-amino-3-phenylpropyl)-4-(3-boronopropyl)pyrrolidine-3-carboxylic acid (mixture of two diastereomers; each a racemate)
(3R,4S)-3-Amino-1-(2-amino-3-phenylpropyl)-4-[3-(dihydroxyboryl)propyl]pyrrolidine-3-carboxylic acid trihydrochloride (mixture of two diastereomers; each a racemate) is prepared in a manner analogous to that set forth in Example 54, Steps 1-3 except commercial N-(tert-butoxycarbonylamino)-phenylalanine is used in place of tert-butyl 7-chloro-3-(hydroxymethyl)-3,4-dihydroisoquinoline-2(1 H)-carboxylate. 1H NMR (0.1M DCl in D2O, 400 MHz) δ 7.30 (m, 5 H), 4.41 (s, 2 H), 4.00 (m, 3 H), 3.85 (m, 2 H), 3.75 (m, 1 H), 3.41 (m, 2 H), 2.86 (m, 1 H), 2.69 (m, 1 H), 1.60 (m, 1 H), 1.27 (m, 3 H), 0.67 (m, 2 H). ESI+ MS found for C17H28BN3O4 m/z 332.2 (M−18+H), 314.2 (M−36 (2H20)+H); ESI− MS m/z 330.2 (M−18 (H20)−H).

reactant | (3R,4S)-3-Amino-1-(2-amino-3-phenylpropyl)-4-[3-(dihydroxyboryl)propyl]pyrrolidine-3-carboxylic acid trihydrochloride | Cl.Cl.Cl.N[C@]1(CN(C[C@@H]1CCCB(O)O)CC(CC1=CC=CC=C1)N)C(=O)O
reactant | N-(tert-butoxycarbonylamino)-phenylalanine | C(C)(C)(C)OC(=O)NN[C@@H](CC1=CC=CC=C1)C(=O)O | C14H20N2O4
product | (3R,4S)-3-amino-1-(2-amino-3-phenylpropyl)-4-(3-boronopropyl)pyrrolidine-3-carboxylic acid | N[C@]1(CN(C[C@@H]1CCCB(O)O)CC(CC1=CC=CC=C1)N)C(=O)O | C17H28BN3O4
